* Vector Fitting — Foster-I RLC Subcircuit
* Generated by vfit/export/spice_export.py
* Poles: 10   RMS error: 3.793e-12

.SUBCKT MULTI_PEAK_FOSTER 1 0

* Branch 0: series inductance (e-term)
L0000   1  n0000  1.4643e-19

* Branch 1: series resistance (d-term)
R0000   n0000  n0001  4.181p

* Branch 2: parallel RLC  pole=-3.1416e+05+4.3870e+06j
* Z = 1/(1/R + 1/sL + sC),  R=300,  L=9.744u,  C=5.305n
R0001  n0001 n0002  300
L0001  n0001 n0002  9.744u
C0000  n0001 n0002  5.305n

* Branch 3: parallel RLC  pole=-1.3090e+05+3.1389e+06j
* Z = 1/(1/R + 1/sL + sC),  R=600,  L=15.92u,  C=6.366n
R0002  n0002 n0003  600
L0002  n0002 n0003  15.92u
C0001  n0002 n0003  6.366n

* Branch 4: parallel RLC  pole=-4.1888e+04+1.2559e+06j
* Z = 1/(1/R + 1/sL + sC),  R=1.2K,  L=63.66u,  C=9.947n
R0003  n0003 n0004  1.2K
L0003  n0003 n0004  63.66u
C0002  n0003 n0004  9.947n

* Branch 5: parallel RLC  pole=-1.8850e+04+3.7652e+05j
* Z = 1/(1/R + 1/sL + sC),  R=800,  L=212.2u,  C=33.16n
R0004  n0004 n0005  800
L0004  n0004 n0005  212.2u
C0003  n0004 n0005  33.16n

* Branch 6: parallel RLC  pole=-1.1781e+04+1.8813e+05j
* Z = 1/(1/R + 1/sL + sC),  R=500,  L=331.6u,  C=84.88n
R0005  n0005 0  500
L0005  n0005 0  331.6u
C0004  n0005 0  84.88n

.ENDS MULTI_PEAK_FOSTER

